US06919322B2
To a solution of diethyl hydroxymethylphosphonate (1.2 mmol) in THF (10 mL) at 0° C. was added 60% sodium hydride (1.1 mmol) and allowed to stir for 15 minutes before adding 2,4-dichloro-5-(bromomethyl)thiazole (1 mmol). The mixture was warmed to room temperature and allowed to stir for 3 h. The reaction was extracted and chromatographed to yield 2,4-dichloro-5-(diethylphosphonomethoxymethyl)thiazole.

reactant | diethyl hydroxymethylphosphonate | 1.2 mmol | OCP(OCC)(OCC)=O | C5H13O4P
reactant | sodium hydride | 1.1 mmol | [H-].[Na+]
reactant | 2,4-dichloro-5-(bromomethyl)thiazole | 1 mmol | ClC=1SC(=C(N1)Cl)CBr | C4H2BrCl2NS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,4-dichloro-5-(diethylphosphonomethoxymethyl)thiazole | ClC=1SC(=C(N1)Cl)COCP(=O)(OCC)OCC | C9H14Cl2NO4PS
